US07041667B1
Methyl-(3S)-3-amino-3-phenylpropanoate
t-Butyl (3S)-3-amino-3-phenylpropanoate (1.0 g, 4.97 mmol) was dissolved in methanolic hydrochloric acid (2.25M, 25 ml). The reaction mixture was heated under reflux for 3 hours, after which time the solvent was evaporated under reduced pressure and the residue basified with aqueous saturated sodium carbonate solution. The product was then extracted using dichloromethane (x2), the combined organic layers were dried (MgSO4), filtered and the solvent removed under reduced pressure to afford the title compound as a white solid, 778 mg.

reactant | t-Butyl (3S)-3-amino-3-phenylpropanoate | 4.97 mmol, 1.0 g | N[C@@H](CC(=O)OC(C)(C)C)C1=CC=CC=C1 | C13H19NO2
solvent | hydrochloric acid | 2.25M, 25 ml | Cl | ClH
product | Methyl-(3S)-3-amino-3-phenylpropanoate | COC(C[C@@H](C1=CC=CC=C1)N)=O | C10H13NO2
